US07692005B2
5-(4-Nitro-benzyl)-1,3-dihydro-indol-2-one (0.524 g, 1.94 mmols) was suspended in 35 ml of MeOH. 5% Pd/C (50 mg) was added to the flask which then was placed on a PARR apparatus. The flask was evacuated then charged with H2(g) (55 psi). This evacuation/H2(g) fill procedure was repeated 3 times (to degas the reaction mixture). The reaction vessel charged with H2(g) (55 psi) was shaken on the PARR apparatus for 2.5 hours after which the contents were filtered through celite. The organic solution was then concentrated in vacuo affording 5-(4-Amino-benzyl)-1,3-dihydro-indol-2-one at 58% yield (0.267 g, 1.12 mmol).

reactant | 5-(4-Nitro-benzyl)-1,3-dihydro-indol-2-one | 1.94 mmols, 0.524 g | [N+](=O)([O-])C1=CC=C(CC=2C=C3CC(NC3=CC2)=O)C=C1 | C15H12N2O3
solvent | MeOH | 35 ml | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 5-(4-Amino-benzyl)-1,3-dihydro-indol-2-one | 58% yield | NC1=CC=C(CC=2C=C3CC(NC3=CC2)=O)C=C1 | C15H14N2O
